US06436929B1
To a solution of 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (2 g, 7.8 mmol) in anhydrous THF (60 mL),was added a solution of n-BuLi in hexane (10 M, 2.4 mL, 24 mmol) at −78° C. under nitrogen. After stirring at −78° C. for 30 minutes, a slurry was obtained and treated with triisopropyl borate (6.5 mL, 28 mmol). The reaction solution was slowly warmed to ambient temperature and quenched with 1N aqueous hydrochloric acid solution (60 mL). Ethyl acetate (100 mL) was added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate (3×60 mL). The combined organic layer was washed with brine and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by a silica gel flash chromatography (ethyl acetate:hexane/2:1) to afford (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid as a white solid (1.4 g, 81%): mp 249-250° C.; 1H-NMR (DMSO-d6) δ10.21 (s, 1H, D2O exchangeable), 7.90-7.95 (br s, 2H, D2O exchangeable), 7.67 (m, 2H), 6.79 (d, 1H, J=7.8 Hz), 1.61 (s, 6H); MS (ESI) m/z 222([M+H]+, 87%).

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 7.8 mmol, 2 g | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 24 mmol, 10 M, 2.4 mL | CCCCCC | C6H14
reactant | triisopropyl borate | 28 mmol, 6.5 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | 1.4 g, 81% | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
